US05236952
A mixture of 987.5 mg of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone and 1.01 g of 2-aminopyridine is melted at 110°. After 30 minutes the melt is treated with 15 ml of ethanol and heated to boiling under reflux for 3 hours. The reaction mixture is then cooled to room temperature and the crystals are removed by filtration under suction. There is obtained 5-(imidazo[1,2-a]-pyridin-3-yl)-3-nitropyrocatechol of m.p. 250°-252° (from N,N-dimethylformamide/methanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 987.5 mg | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-aminopyridine | 1.01 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(imidazo[1,2-a]-pyridin-3-yl)-3-nitropyrocatechol | N=1C=C(N2C1C=CC=C2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | C13H9N3O4
